US03954852
C. 5-fluoro-o-toluidinylbromide
Bromine (0.5 mole) is added over 1 hour to stirred 5-fluoro-o-toluidine (0.5 mole) at 100° C illuminated with a high wattage lamp. The crude benzyl bromide is used as prepared.

reactant | Bromine | 0.5 mole | BrBr | Br2
reactant | 5-fluoro-o-toluidine | 0.5 mole | FC1=CC=C(C(N)=C1)C | C7H8FN
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-fluoro-o-toluidinylbromide | FC1=CC=C(C(NBr)=C1)C | C7H7BrFN
